US03954754
EXAMPLE 50: 3-Hydrazino-5,6,7,8-tetrahydro-6-(4-pentenoyl)pyrido[4,3-c]pyridazine
12.3 g of 3-chloro-5,6,7,8-tetrahydro-6-(4-pentenoyl)pyrido[4,3-c]pyridazine are stirred in 40 cc of hydrazine hydrate at a bath temperature of 90° for 3 hours. The mixture is cooled with ice, 100 cc of chloroform are added, and the excess hydrazine is separated. Upon concentrating the chloroform phase, the crude title compound is obtained as an oil. This is converted to bis[3-hydrazino-5,6,7,8-tetrahydro-6-(4-pentenoyl)pyrido[4,3-c]pyridazine]trisfurmarate by boiling with 4 g of fumaric acid in 50 cc of absolute ethanol. M.P. 132°-134° (decomp., from absolute ethanol).

reactant | 3-chloro-5,6,7,8-tetrahydro-6-(4-pentenoyl)pyrido[4,3-c]pyridazine | 12.3 g | ClC1=CC2=C(N=N1)CCN(C2)C(CCC=C)=O | C12H14ClN3O
reactant | chloroform | 100 cc | C(Cl)(Cl)Cl | CHCl3
reactant | hydrazine hydrate | 40 cc | O.NN
product | 3-Hydrazino-5,6,7,8-tetrahydro-6-(4-pentenoyl)pyrido[4,3-c]pyridazine | N(N)C1=CC2=C(N=N1)CCN(C2)C(CCC=C)=O | C12H17N5O
